US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-8-fluoro-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
A 40% aqueous solution (100 mg) of methylamine and 1-(5-amino-2,4-difluorophenyl)-7,8-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (100 mg) were added to pyridine (2 ml), and the mixture was stirred at room temperature for 2 hours. The solvent was distilled off under reduced pressure, ethanol (2 ml) was added to the residue, and solids were collected by filtration to obtain the title compound (40 mg) as an orange powder.

reactant | methylamine | CN | CH5N
reactant | 1-(5-amino-2,4-difluorophenyl)-7,8-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 100 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC=C(C(=C12)F)F)=O)C(=O)O)F)F | C16H8F4N2O3
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 1-(5-Amino-2,4-difluorophenyl)-8-fluoro-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 40 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC=C(C(=C12)F)NC)=O)C(=O)O)F)F | C17H12F3N3O3
